US06399603B1
4-((1E)-2-(2-((3,4-Dichlorophenyl)amino)-4-hydroxy-6-nitroquinazolin-8-yl)vinyl)benzoic acid.
To a solution of 2-((3,4-dichlorophenyl)amino)-8-bromo-6-nitroquinazolin-4-ol (50 mg) in N,N-dimethylformamide (2 mL) was added 4-vinylbenzoic acid (35 mg), followed by palladium acetate (2.6 mg), tri-o-tolylphosphine (7.1 mg) and N,N-diisopropylethylamine (0.24 mL). The reaction mixture was heated at 120° C. for 24 h, then was cooled to room temperature and concentrated in vacuo. The residue was triturated with 50% (v/v) methanol/dichloromethane (2 mL). The resulting solid was isolated by filtration, washed sequentially with diethyl ether and water, then was dried in vacuo to give the title compound (36 mg). 1H NMR (300 MHz, DMSO-d6/CF3CO2H) δ8.75 (d, J=2.7 Hz, 1H), 8.60 (d, J=2.7 Hz, 1H), 8.43 (d, J=4.5 Hz, 1H), 7.99-7.88 (m, 3H), 7.74 (d, J=8.4 Hz, 1H), 7.67-7.51 (m, 2H), 7.38 (dd, J=8.7, 2.6 Hz, 1H). HPLC Method B 8.26 min. MS (APCI−) m/z 496, 498.

reactant | 2-((3,4-dichlorophenyl)amino)-8-bromo-6-nitroquinazolin-4-ol | 50 mg | ClC=1C=C(C=CC1Cl)NC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])Br | C14H7BrCl2N4O3
reactant | 4-vinylbenzoic acid | 35 mg | C(=C)C1=CC=C(C(=O)O)C=C1 | C9H8O2
reactant | tri-o-tolylphosphine | 7.1 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | N,N-diisopropylethylamine | 0.24 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 2.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-((1E)-2-(2-((3,4-Dichlorophenyl)amino)-4-hydroxy-6-nitroquinazolin-8-yl)vinyl)benzoic acid | 36 mg | ClC=1C=C(C=CC1Cl)NC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])/C=C/C1=CC=C(C(=O)O)C=C1 | C23H14Cl2N4O5
